US06191166B1
Synthesis of N-[N-(3-Nitrophenylacetyl)-L-alaninyl]-L-valine Ethyl Ester
Following General Procedure C and using N-(3-nitrophenylacetyl)-L-alanine (from Example D11 above) and L-valine ethyl ester hydrochloride (Aldrich), the title compound was prepared as a solid. The reaction was monitored by tlc (Rf=0.2 in 97:3 CHCl3/MeOH) and the product was purified by silica gel chromatography using 97:3 CHCl3/MeOH as the eluent.

reactant | N-(3-nitrophenylacetyl)-L-alanine | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)N[C@@H](C)C(=O)O | C11H12N2O5
reactant | L-valine ethyl ester hydrochloride | Cl.C(C)OC([C@@H](N)C(C)C)=O
solvent | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
product | N-[N-(3-Nitrophenylacetyl)-L-alaninyl]-L-valine Ethyl Ester | C(C)OC([C@@H](NC([C@@H](NC(CC1=CC(=CC=C1)[N+](=O)[O-])=O)C)=O)C(C)C)=O | C18H25N3O6
